US05798316
By the method of Example 1, Step H, 26.0 grams (0.109 mole) of methyl 2-(2-hydroxymethyl-4-ethylphenoxy)propionate and 14.3 grams (0.12 mole) of thionyl chloride were reacted in the presence of two drops of pyridine in 120 mL of diethyl ether, yielding 28.21 grams of methyl 2-(2-chloromethyl-4-ethylphenoxy)propionate. The NMR spectrum was consistent with the proposed spectrum.

reactant | methyl 2-(2-hydroxymethyl-4-ethylphenoxy)propionate | 0.109 mole, 26.0 grams | OCC1=C(OC(C(=O)OC)C)C=CC(=C1)CC | C13H18O4
reactant | thionyl chloride | 0.12 mole, 14.3 grams | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | two drops | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 120 mL | C(C)OCC | C4H10O
product | methyl 2-(2-chloromethyl-4-ethylphenoxy)propionate | 28.21 grams | ClCC1=C(OC(C(=O)OC)C)C=CC(=C1)CC | C13H17ClO3
